US06677349B1
Using the general method of Example 255, 1-(3-aminopropyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine (2.0 g, 7.8 mmol) was reacted with methanesulfonic anhydride (1.49 g, 8.6 mmol) to provide 1.2 g of N-[3-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]methanesulfonamide as a solid, m.p. 236.0-238.0° C. Analysis: Calculated for C15H19N5O2S.0.25 H2O: %C, 53.32; %H, 5.82; %N, 20.72; Found: %C, 53.35; %H, 5.72; %N, 20.57.

reactant | 1-(3-aminopropyl)-2-methyl-1H-imidazo[4,5-c]quinolin-4-amine | 7.8 mmol, 2.0 g | NCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C | C14H17N5
reactant | methanesulfonic anhydride | 8.6 mmol, 1.49 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
product | N-[3-(4-amino-2-methyl-1H-imidazo[4,5-c]quinolin-1-yl)propyl]methanesulfonamide | 1.2 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCNS(=O)(=O)C)C | C15H19N5O2S
